US08183262B2
N-(2-Hydroxy-ethyl)-3-[6′-methyl-4′-(4-trifluoromethyl-phenyl)-[2,2′]bipyridinyl-6-yl]-benzenesulfonamide
The title compound was prepared from 3-[6′-methyl-4′-(4-trifluoromethyl-phenyl)-[2,2′]bipyridinyl-6-yl]-benzenesulfonyl chloride (example I.2) (0.275 g, 0.5 mmol) by treatment with excess ethanolamine in THF (5 mL) at 23° C. for 16 h. Diluted with EtOAc, washed with 1 N HCl, dried organic layer over Na2SO4. Removal of the solvent in vacuum left a crude product, which was purified by silica gel column chromatography with n-heptane/EtOAc followed by trituration with n-heptane/diethyl ether to give the title compound (0.110 g, 43%) as a white solid. MS (ISP) 513.9 [(M+H)+]; mp 110° C. (dec.).

reactant | 3-[6′-methyl-4′-(4-trifluoromethyl-phenyl)-[2,2′]bipyridinyl-6-yl]-benzenesulfonyl chloride | 0.5 mmol, 0.275 g | CC1=CC(=CC(=N1)C1=NC(=CC=C1)C=1C=C(C=CC1)S(=O)(=O)Cl)C1=CC=C(C=C1)C(F)(F)F | C24H16ClF3N2O2S
reactant | ethanolamine | C(O)CN | C2H7NO
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N-(2-Hydroxy-ethyl)-3-[6′-methyl-4′-(4-trifluoromethyl-phenyl)-[2,2′]bipyridinyl-6-yl]-benzenesulfonamide | 0.110 g, 43% | OCCNS(=O)(=O)C1=CC(=CC=C1)C1=CC=CC(=N1)C1=NC(=CC(=C1)C1=CC=C(C=C1)C(F)(F)F)C | C26H22F3N3O3S
